US03946021
N-ETHYL-3,6-BIS(4-PIPERIDINO-2-METHYLBUTYRYL)CARBAZOLE
Following the procedure of Example 6, only substituting for 3,6-bis(4-chlorobutyryl)-N-ethylcarbazole the appropriate molar equivalent amount of 3,6-bis(4-chloro-2-methylbutyryl)-N-ethylcarbazole, the desired product is obtained.

reactant | 3,6-bis(4-chlorobutyryl)-N-ethylcarbazole | ClCCCC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(CCCCl)=O)CC | C22H23Cl2NO2
reactant | 3,6-bis(4-chloro-2-methylbutyryl)-N-ethylcarbazole | ClCCC(C(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(C(CCCl)C)=O)CC)C | C24H27Cl2NO2
product | N-ETHYL-3,6-BIS(4-PIPERIDINO-2-METHYLBUTYRYL)CARBAZOLE | C(C)N1C2=CC=C(C=C2C=2C=C(C=CC12)C(C(CCN1CCCCC1)C)=O)C(C(CCN1CCCCC1)C)=O | C34H47N3O2
